US05942640
Preparation of N-(1-Cyano-1,2-dimethylpropyl)-2-(2,4-dichlorophenoxy)propionamide via sequential addition
A stirred mixture of sodium bicarbonate (1.446 kg; 17.2 mol) in water at -3° to 3° C. is treated with a toluene solution of 2-amino-2,3-dimethylbutyronitrile (1.51 kg, 13.46 mol) over a 15 minute period, then treated sequentially with a toluene solution of (R)-2-(2,4-dichlorophenoxy)propionyl chloride (3.346 kg, 13.2 mol) over a 1.5 hour period at ice bath temperatures, stirred for 0.5 hours, treated with 50% NaOH (0.396 kg), heated to 55° C. and stirred for 0.5 hours. The resultant mixture is separated. The organic phase is washed with 5% NaOH and distilled at temperatures up to 80° C. at 10 mm Hg to remove the toluene. The pot residue is crystallized in isopropanol/water to afford the title product as a white solid, 4.131 kg (94.8% yield), characterized by HPLC analysis. The product is 99.7% pure. The isomer ratio is: 94.8% RR, RS and 5.2% SS, SR.

reactant | sodium bicarbonate | 17.2 mol, 1.446 kg | C([O-])(O)=O.[Na+]
reactant | 2-amino-2,3-dimethylbutyronitrile | 13.46 mol, 1.51 kg | NC(C#N)(C(C)C)C | C6H12N2
reactant | (R)-2-(2,4-dichlorophenoxy)propionyl chloride | 13.2 mol, 3.346 kg | ClC1=C(O[C@@H](C(=O)Cl)C)C=CC(=C1)Cl | C9H7Cl3O2
reactant | NaOH | 0.396 kg | [OH-].[Na+]
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(1-Cyano-1,2-dimethylpropyl)-2-(2,4-dichlorophenoxy)propionamide | 94.8% yield | C(#N)C(C(C)C)(C)NC(C(C)OC1=C(C=C(C=C1)Cl)Cl)=O | C15H18Cl2N2O2
